US06951879B2
According to the method in example 31, 6-(4-Bromo-butoxy)-2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophene and N-propyl amine were converted to yield {4-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-propyl-amine as yellowish oil, MS: 422 (MH+).

reactant | 6-(4-Bromo-butoxy)-2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)C(F)(F)F)C)C1 | C20H18BrF3OS
reactant | N-propyl amine | C(CC)N | C3H9N
product | {4-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-propyl-amine | CC1=C(C2=C(S1)C=C(C=C2)OCCCCNCCC)C2=CC=C(C=C2)C(F)(F)F | C23H26F3NOS
